US09314414B2
Production of 2-propylheptyl Caprate by Esterification
1108.0 g 2-propylheptanol (7 mol) and 1205.9 g capric acid (7 mol) were heated for 6 h to 220° C. on a water separator together with 0.27 g Fascat® 2001 (Sn oxalate: 0.1% by weight, based on the composition as a whole). After the separation of water had stopped, the crude product was distilled in an oil pump vacuum through a 250 mm Vigreux column (T=141-152° C.). 1840.1 g of a colorless oil were obtained: OHV=<0.08, AV=<0.18.

reactant | 2-propylheptanol | 7 mol, 1108.0 g | C(CC)C(CO)CCCCC | C10H22O
reactant | capric acid | 7 mol, 1205.9 g | OC(=O)CCCCCCCCC | C10H20O2
solvent | water | O | H2O
product | 2-propylheptyl Caprate | 1840.1 g | O(C(=O)CCCCCCCCC)CC(CCCCC)CCC | C20H40O2
